US07598398B2
Step A. 5-Chloro-N-methoxy-N-methyl-1H-indole-2-carboxamide
To a flask containing 5-chloroindole-2-carboxylic acid (8.33 g, 42.6 mmol) were added EDC (12.6 g, 63.9 mmol), HOBt (8.63 g, 63.9 mmol), N,O-dimethylhydroxylamine hydrochloride (6.23 g, 63.9 mmol) sequentially. N,N-Dimethylformamide (100 mL) was added, followed by DIEA (22.6 mL, 128 mmol), and the resulting solution was stirred at 40° C. for 18 h. The reaction mixture was allowed to cool to room temperature, then was poured into saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The combined organic phases were dried over anhydrous sodium sulfate and concentrated in vacuo. The resulting amide was taken forward without further purification: LCMS B, tr=2.03 min, m/z 239.1 [M+H]+; 1H NMR (500 MHz, CDCl3) δ 9.55 (s, 1H), 7.66 (d, J=2.0 Hz, 1H), 7.37 (d, J=8.5 Hz, 1H), 7.24 (dd, J=8.5, 2.0 Hz, 1H), 7.16 (s, 1H), 3.85 (s, 3H), 3.44 (s, 3H).

reactant | 5-chloroindole-2-carboxylic acid | 42.6 mmol, 8.33 g | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | EDC | 63.9 mmol, 12.6 g
reactant | HOBt | 63.9 mmol, 8.63 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,O-dimethylhydroxylamine hydrochloride | 63.9 mmol, 6.23 g | Cl.CNOC
reactant | DIEA | 128 mmol, 22.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-Dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 5-Chloro-N-methoxy-N-methyl-1H-indole-2-carboxamide | ClC=1C=C2C=C(NC2=CC1)C(=O)N(C)OC | C11H11ClN2O2
